US05858995
To a mixture of 2-methyl-7-nitrobenzo[b]furan (1.77 g) and aluminum chloride (2.66 g) in dichloromethane (40 ml) was added dropwise a solution of dichloromethyl methyl ether (3.6 ml) in dichloromethane (10 ml). The mixture was stirred at ambient temperature for 30 minutes and the reaction mixture was poured into a mixture of ice and 1N-hydrochloric acid. The separated oil was extracted with dichloromethane and the extract was washed with brine, aqueous saturated sodium bicarbonate and brine. Then, the solution was dried over sodium sulfate and evaporated in vacuo. The obtained oil was crystallized from diethyl ether to give 3-formyl-2-methyl-7-nitrobenzo[b]furan (1.83 g).

reactant | 2-methyl-7-nitrobenzo[b]furan | 1.77 g | CC1=CC2=C(O1)C(=CC=C2)[N+](=O)[O-] | C9H7NO3
reactant | aluminum chloride | 2.66 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | dichloromethyl methyl ether | 3.6 ml | COC(Cl)Cl | C2H4Cl2O
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3-formyl-2-methyl-7-nitrobenzo[b]furan | 1.83 g | C(=O)C=1C2=C(OC1C)C(=CC=C2)[N+](=O)[O-] | C10H7NO4
